US07019026B1
To a solution of 2-amino-7-hydroxymethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester (0.13 g, 0.46 mmol) in tetrahydrofuran (3 ml) was added triphenylphosphine (0.13 g, 0.51 mmol), and thiazolidin-2,4-dione (60 mg, 0.51 mmol). The reaction mixture was cooled to 0° C. and diisopropylazodicarboxylate (99 μl, 0.51 mmol) was added via syringe. The resultant mixture was stirred for 18 hours, gradually warming to room temperature. The volatiles were evaporated in vacuo and the resulting oil was diluted in ethyl acetate (50 ml). The organic phase was washed with saturated sodium bicarbonate (3×50 ml), brine (3×50 ml), dried (MgSO4), filtered and the solvent evaporated in vacuo. The residue was subjected to flash chromatography using a mixture of dichloromethane/methanol (9:1) as eluent. Pure fractions were collected (Rf=0.70) and the solvent evaporated in vacuo which afforded 89 mg (51%) of 2-amino-7-(2,4-dioxo-thiazolidin-3-ylmethyl)-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester as an oil.

reactant | 2-amino-7-hydroxymethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 0.46 mmol, 0.13 g | C(C)(C)(C)OC(=O)C1=C(SC=2C(OCCC21)CO)N | C13H19NO4S
reactant | triphenylphosphine | 0.51 mmol, 0.13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | thiazolidin-2,4-dione | 0.51 mmol, 60 mg | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | diisopropylazodicarboxylate | 0.51 mmol, 99 μl | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-amino-7-(2,4-dioxo-thiazolidin-3-ylmethyl)-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 89 mg, 51% | C(C)(C)(C)OC(=O)C1=C(SC=2C(OCCC21)CN2C(SCC2=O)=O)N | C16H20N2O5S2
